US08492372B2
1-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}AZETIDINE
Preparation according to Example 34 using 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (8.5 mg, 0.026 mmol), azetidine (0.1 ml) and EtOH (3 ml). MS m/z (rel. intensity, 70 eV) 301 (M+, 2), 141 (7), 95 (7), 75 (7), 71 (6), 70 (bp).

reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.026 mmol, 8.5 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | azetidine | 0.1 ml | N1CCC1 | C3H7N
solvent | EtOH | 3 ml | CCO | C2H6O
product | 1-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}AZETIDINE | FC1=CC(=CC=2OC(OCC21)CN2CCC2)S(=O)(=O)C | C13H16FNO4S
